US06458798B1
2-Amino-5-benzyl-6-methylpyrimidine-4-ol
A mixture of ethyl 2-benzyl-3-oxobutanoate (6 g, 27.2 mmol), guanidine carbonate (2.94 g, 16.3 mmol) and ethanol (20 ml) was refluxed for 10 hours. After cooling, the precipitate was filtered and washed with water, ethanol and ether in order, to the object compound (3.62 g, 61.7%).

reactant | ethyl 2-benzyl-3-oxobutanoate | 27.2 mmol, 6 g | C(C1=CC=CC=C1)C(C(=O)OCC)C(C)=O | C13H16O3
reactant | guanidine carbonate | 16.3 mmol, 2.94 g | C(O)(O)=O.NC(=N)N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-Amino-5-benzyl-6-methylpyrimidine-4-ol | NC1=NC(=C(C(=N1)O)CC1=CC=CC=C1)C | C12H13N3O
